### PR TITLE
[Merged by Bors] - feat(Probability/Density): Random variables are independent iff joint density is product

### PR DESCRIPTION
**Pull request by hanwenzhu**
This PR proves that two random variables are independent, iff their joint distribution is the product measure of marginal distributions, iff their joint density is a product of their marginal densities up to AE equality. It also uses lemmas stating that `μ.withDensity` is injective up to AE equality.

---

- [x] depends on: #8032

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/AEEqOfIntegral.lean [hunk 1]
```diff
@@ -629,4 +629,25 @@ theorem AEMeasurable.ae_eq_of_forall_set_lintegral_eq {f g : α → ℝ≥0∞}
 
 end Lintegral
 
+section WithDensity
+
+variable {m : MeasurableSpace α} {μ : Measure α}
+
+theorem withDensity_eq_iff_of_sigmaFinite [SigmaFinite μ] {f g : α → ℝ≥0∞} (hf : Measurable f)
+    (hg : Measurable g) : μ.withDensity f = μ.withDensity g ↔ f =ᵐ[μ] g :=
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Function/AEEqOfIntegral.lean:637]: I generalized `ae_le_of_forall_set_lintegral_le_of_sigmaFinite` to a.e.-measurable functions in #8032 . Once that PR is merged, you will be able to generalize this lemma as well.

File: Mathlib/MeasureTheory/Function/AEEqOfIntegral.lean [hunk 2]
```diff
@@ -629,4 +629,25 @@ theorem AEMeasurable.ae_eq_of_forall_set_lintegral_eq {f g : α → ℝ≥0∞}
...
+  ⟨fun hfg ↦ by
+    refine' ae_eq_of_forall_set_lintegral_eq_of_sigmaFinite hf hg fun s hs _ ↦ _
+    rw [← withDensity_apply f hs, ← withDensity_apply g hs, ← hfg], withDensity_congr_ae⟩
+
+theorem AEMeasurable.withDensity_eq_iff {f g : α → ℝ≥0∞} (hf : AEMeasurable f μ)
+    (hg : AEMeasurable g μ) (hfi : (∫⁻ x, f x ∂μ) ≠ ∞) :
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Function/AEEqOfIntegral.lean:643]: I would remove the `AEMeasurable` from the name to make it simpler to find. Also you don't need the parentheses in `hfi`.
```suggestion
theorem withDensity_eq_iff {f g : α → ℝ≥0∞} (hf : AEMeasurable f μ)
    (hg : AEMeasurable g μ) (hfi : ∫⁻ x, f x ∂μ ≠ ∞) :
```

File: Mathlib/MeasureTheory/Function/AEEqOfIntegral.lean [hunk 3]
```diff
@@ -629,4 +629,25 @@ theorem AEMeasurable.ae_eq_of_forall_set_lintegral_eq {f g : α → ℝ≥0∞}
...
+    μ.withDensity f = μ.withDensity g ↔ f =ᵐ[μ] g :=
+  ⟨fun hfg ↦ by
+    refine' AEMeasurable.ae_eq_of_forall_set_lintegral_eq hf hg hfi _ fun s hs _ ↦ _
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Function/AEEqOfIntegral.lean:646]: Please use `refine` instead of `refine'`
```suggestion
    refine AEMeasurable.ae_eq_of_forall_set_lintegral_eq hf hg hfi ?_ fun s hs _ ↦ ?_
```

File: Mathlib/Probability/Density.lean [hunk 4]
```diff
@@ -136,6 +137,17 @@ theorem lintegral_eq_measure_univ {X : Ω → E} [HasPDF X ℙ μ] :
...
 #align measure_theory.pdf.lintegral_eq_measure_univ MeasureTheory.pdf.lintegral_eq_measure_univ
 
+theorem unique [IsFiniteMeasure ℙ] {X : Ω → E} [HasPDF X ℙ μ] (f : E → ℝ≥0∞)
+    (hmf : AEMeasurable f μ) : ℙ.map X = μ.withDensity f ↔ pdf X ℙ μ =ᵐ[μ] f := by
+  rw [map_eq_withDensity_pdf X ℙ μ]
+  apply AEMeasurable.withDensity_eq_iff (measurable_pdf X ℙ μ).aemeasurable hmf
+  rw [lintegral_eq_measure_univ]
+  exact (measure_lt_top _ _).ne
+
+theorem unique' [SigmaFinite μ] {X : Ω → E} [HasPDF X ℙ μ] (f : E → ℝ≥0∞) (hmf : Measurable f) :
```
Comment (RemyDegenne) [inline Mathlib/Probability/Density.lean:147]: This will be generalized to `AEMeasurable` as well, and then you can delete the finite measure one.

**Review by RemyDegenne — COMMENTED** [review]
Thanks, it looks good!
I made PR #8032 to allow you to generalize some results. I suggest you wait for that one to be merged, then merge master.

File: Mathlib/Probability/Density.lean (hunk 4 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Density.lean:147]: Indeed you're right. I did not read carefully enough and thought the two conditions were on the same measure.

**Comment by hanwenzhu** [comment]
I added a lemma that simplifies the proof somewhat: X and Y are independent iff P(X in s, Y in t) = P(X in s) P(Y in t), i.e. the pushforward measure by (X, Y) is the product measure between the pushforward measures by X and Y
```lean
indepFun_iff_map_prod_eq_prod_map_map :
  IndepFun f g μ ↔ μ.map (fun ω ↦ (f ω, g ω)) = (μ.map f).prod (μ.map g)
```
I think this lemma would be helpful in general.

File: Mathlib/Probability/Density.lean [hunk 5]
```diff
@@ -411,6 +424,35 @@ end IsUniform
 
 end
 
+section TwoVariables
+
+open ProbabilityTheory
+
+variable {Ω E F : Type*} [MeasurableSpace Ω] [MeasurableSpace E] [MeasurableSpace F]
+variable {X : Ω → E} {Y : Ω → F} {ℙ : Measure Ω} {μ : Measure E} {ν : Measure F}
+variable [HasPDF (fun ω ↦ (X ω, Y ω)) ℙ (μ.prod ν)]
```
Comment (RemyDegenne) [inline Mathlib/Probability/Density.lean:433]: Most of these are already declared (you can use `#where` to see the variables that exist at any point).
```suggestion
variable {F : Type*} [MeasurableSpace F] {ν : Measure F} {X : Ω → E} {Y : Ω → F}
```

File: Mathlib/Probability/Density.lean [hunk 6]
```diff
@@ -411,6 +424,35 @@ end IsUniform
...
+
+/-- Random variables are independent iff their joint density is a product of marginal densities. -/
+theorem indepFun_iff_pdf_prod_eq_pdf_mul_pdf
+    [IsFiniteMeasure ℙ] [SigmaFinite μ] [SigmaFinite ν] [HasPDF (fun ω ↦ (X ω, Y ω)) ℙ (μ.prod ν)] :
+    IndepFun X Y ℙ ↔
+      pdf (fun ω ↦ (X ω, Y ω)) ℙ (μ.prod ν) =ᵐ[μ.prod ν] fun z ↦ pdf X ℙ μ z.1 * pdf Y ℙ ν z.2 := by
+  haveI : HasPDF X ℙ μ := quasiMeasurePreserving_hasPDF' (μ := μ.prod ν) (X := fun ω ↦ (X ω, Y ω))
```
Comment (RemyDegenne) [inline Mathlib/Probability/Density.lean:440]:
```suggestion
  have : HasPDF X ℙ μ := quasiMeasurePreserving_hasPDF' (μ := μ.prod ν) (X := fun ω ↦ (X ω, Y ω))
```

File: Mathlib/Probability/Density.lean [hunk 7]
```diff
@@ -411,6 +424,35 @@ end IsUniform
...
+    quasiMeasurePreserving_fst
+  haveI : HasPDF Y ℙ ν := quasiMeasurePreserving_hasPDF' (μ := μ.prod ν) (X := fun ω ↦ (X ω, Y ω))
```
Comment (RemyDegenne) [inline Mathlib/Probability/Density.lean:442]:
```suggestion
  have : HasPDF Y ℙ ν := quasiMeasurePreserving_hasPDF' (μ := μ.prod ν) (X := fun ω ↦ (X ω, Y ω))
```

**Review by RemyDegenne — COMMENTED** [review]
Here are a few minor comments. Apart from those, it looks good.

**Comment by hanwenzhu** [comment]
> Here are a few minor comments. Apart from those, it looks good.

Thank you! I have edited those parts accordingly.

File: Mathlib/Probability/Density.lean [hunk 8]
```diff
@@ -411,6 +424,34 @@ end IsUniform
 
 end
 
+section TwoVariables
+
+open ProbabilityTheory
+
+variable {F : Type*} [MeasurableSpace F] {ν : Measure F} {X : Ω → E} {Y : Ω → F}
+variable [HasPDF (fun ω ↦ (X ω, Y ω)) ℙ (μ.prod ν)]
```
Comment (RemyDegenne) [inline Mathlib/Probability/Density.lean:432]:
```suggestion
```
You wrote this one in the theorem statement. No need to have it here as well.

Comment (hanwenzhu) [reply Mathlib/Probability/Density.lean]: Thank you! Sorry about that, I just edited again to delete this line.

**Comment by RemyDegenne** [comment]
Thanks!
bors r+
